Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Abacavir / Didanosine / squash / phenacetin
 
Attending: ___.
 
Chief Complaint:
Sepsis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male with a pmhx of HIV (CD4 536 
VL
253) unclear history of adrenal insufficiency and recent episode
of cellulitis treated with Cephalexin who presented to ___ this morning after feeling unwell for the past 3 days.
At his PCP's office he was noted to be hypotensive with initial
pressures 60/40 and was transferred to the ED. Prior to arrival
to the ED he was given 700 cc of fluid. Upon arrival to the ED,
he was noted to be more lethargic and still hypotensive with BP
77/54. He was also noted to be profoundly "weak"  with exam with
neuro exam showing CN2-12 intact with ___ strength in upper and
lower extremities bilaterally. 

In the ED,  
- Initial Vitals:  
T:99 BP;77/54 HR:101 RR:20 95% 3L NC 
- Exam: 
Exam notable for overall lethargy but alert and oriented x 3.
Lung exam notable for coarse breath sounds with normal work of
breathing. 
- Labs:  
    11.9
___ 25
--  -- --<132
4.4 21 2.1
Flu Negative

___
AP;37 Alb 3.3 INR 1.4 
Troponin:.02 
Lactate 3.8->1.6
Serum Tox; negative

- Imaging:  
CXR: Bilateral parenchymal opacities more confluent and 
extensive
on the left than on the right worrisome for multifocal 
pneumonia.

CT Head (non-contrast): No evidence of acute large territory
infarction or intracranial hemorrhage.

CT A/P: 
Small volume of ascites in the right lower quadrant, which is
nonspecific and may be seen in settings of volume overload.

Massively distended stomach.

- Consults: None  
- Interventions:
Vancomycin/Zosyn
Levophed .5/hr
Hydrocrotisone 100 mg
700 cc prior to arrival to the ED and another 3L of LR in the ED

Upon arrival to the ICU he states that over the past week he's
had a productive cough producing yellow sputum with no fevers.
he's also had recurrent bouts of vomiting of NBNB vomit with 3
over the past week with no BM's over the past week. Currently 
not
passing any gas. 
  
ROS: Positives as per HPI; otherwise negative.
 
Past Medical History:
HIV
Addison's Disease
Bipolar 2 disorder, MDD
Chronic back and neck pain status post vertebral fixation of
C2-S2
Chronic Hep B Carrier 
Asthma
HLD
Restless Leg Syndrome
GERD
Anemia
Osteoarthritis 
OSA
 
Social History:
___
Family History:
Father with a history of thyroid cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VS: BP: 102/65 HR; 83 Sp02: 100% on 3L NC
GENERAL: Alert and interactive. Appears slightly lethargic. 
HEENT: Sclera anicteric and without injection. Appears dry on
exam.
NECK: No JVD  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Coarse breath sounds at the left lung base. No wheezes,
rhonchi or rales. No increased work of breathing.  
ABDOMEN: Normal bowels sounds, distended, mild tenderness over
lower abdomen. No rebound/guarding
EXTREMITIES: No edema.   
SKIN: Warm. Cap refill <2s. Dry skin over the forehead. 
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3. 

DISCHARGE PHYSICAL EXAM:
======================
___ 1108 Temp: 97.7 PO BP: 155/91 L Lying HR: 77 RR: 18 O2
sat: 91% O2 delivery: Ra FSBG: 80 

GENERAL: Alert and interactive. In no acute distress.
Intermittently coughing throughout interview.
HEENT: Normocephalic, atraumatic. Flaky white skin surrounding
nares bilaterally and on forehead. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. Sclera
anicteric and without injection. Dry mucous membranes. 
Oropharynx
is clear.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops but quiet heart sounds throughout. 
LUNGS: Coarse/rhonchorous breath sounds heard at lung bases with
mildly  diminished breath sounds L>R improved from yesterday, no
wheezes appreciated, no increased work of breathing but
intermittently coughing with deep breaths. 
ABDOMEN: Normal bowels sounds, mildly distended, minimally 
tender
to deep palpation in all four quadrants, especially over
supra-pubic area. No organomegaly.
EXTREMITIES: No edema. Pulses DP/Radial 2+ bilaterally.
SKIN: Warm. 
NEUROLOGIC: AAOx3, no focal deficits
 
Pertinent Results:
ADMISSION LABS:
===============
___ 12:15PM BLOOD WBC-1.9* RBC-3.77* Hgb-11.9* Hct-36.8* 
MCV-98 MCH-31.6 MCHC-32.3 RDW-13.9 RDWSD-49.4* Plt ___
___ 12:15PM BLOOD Neuts-58 Bands-10* ___ Monos-7 
Eos-0* Baso-0 AbsNeut-1.29* AbsLymp-0.48* AbsMono-0.13* 
AbsEos-0.00* AbsBaso-0.00*
___ 12:15PM BLOOD Poiklo-2+* Ovalocy-1+* Echino-1+* RBC 
Mor-SLIDE REVI
___ 12:15PM BLOOD Plt Smr-NORMAL Plt ___
___ 12:15PM BLOOD ___ PTT-27.0 ___
___ 12:15PM BLOOD Glucose-132* UreaN-25* Creat-2.1* Na-138 
K-4.4 Cl-107 HCO3-21* AnGap-10
___ 12:15PM BLOOD ALT-11 AST-17 LD(LDH)-172 AlkPhos-37* 
TotBili-0.5
___ 12:15PM BLOOD Lipase-8
___ 12:15PM BLOOD cTropnT-0.02*
___ 05:51AM BLOOD CK-MB-2 cTropnT-<0.01
___ 12:15PM BLOOD Albumin-3.3*
___ 05:51AM BLOOD Calcium-9.0 Phos-2.5* Mg-2.0
___ 05:51AM BLOOD Lithium-0.9
___ 12:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 12:23PM BLOOD ___ pO2-15* pCO2-52* pH-7.28* 
calTCO2-25 Base XS--4
___ 12:23PM BLOOD Lactate-3.8*
___ 03:16PM BLOOD Lactate-1.6

MICROBIOLOGY:
=============
___ 12:15PM BLOOD B-GLUCAN-Test : 64     
___ 01:35PM BLOOD HIV1 VL-2.0*
___ Urine Strep Pneumo: Not detected
___ Blood Culture: No growth x 2
___ MRSA Screen: MRSA not detected
___ Blood Culture (Preliminary): No growth to date x2
___ Urine Legionella Antigen: Not detected
___ 01:35PM BLOOD  WBC-9.8 Lymph-7.0* Abs ___ CD3%-58 
Abs CD3-399* CD4%-18 Abs CD4-125* CD8%-38 Abs CD8-264 
CD4/CD8-0.48*

KEY IMAGING/PROCEDURES:
=====================
___ CXR: Bilateral parenchymal opacities more confluent and 
extensive on the left than
on the right worrisome for multifocal pneumonia.

___ CT Abd/Pelvis with Contrast: 
1. Multifocal airspace opacities at the visualized bilateral 
lung bases, which
may represent an atypical multifocal infectious process, 
aspiration, or
alveolar hemorrhage.
2. Small volume of ascites in the right lower quadrant, which is 
nonspecific
and may be seen in settings of volume overload.
3. Massively distended stomach.

___ CT Head w/o Contrast: 
1. No evidence of acute large territory infarction or 
intracranial hemorrhage.
2. Please note that CT is suboptimal for evaluation of 
intracranial masses,
which would be better evaluated with MR.
3. Paranasal sinus disease.

___ CXR:
Diffuse parenchymal opacification throughout the left lung and 
patchy opacity
in the right lower lobe could represent pneumonia.  Mild diffuse 
parenchymal
opacification left greater than right could represent pulmonary 
edema.
Old healed right-sided rib fractures.  Evidence of internal 
fixation of the
thoracic spine.
 
Small left pleural effusion.  No pneumothorax.

DISCHARGE LABS:
==============
___ 06:33AM BLOOD WBC-10.4* RBC-3.41* Hgb-10.6* Hct-32.7* 
MCV-96 MCH-31.1 MCHC-32.4 RDW-14.3 RDWSD-50.1* Plt ___
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD Glucose-80 UreaN-13 Creat-0.8 Na-142 
K-4.1 Cl-106 HCO3-27 AnGap-9*
___ 06:45AM BLOOD ALT-9 AST-12 LD(LDH)-169 AlkPhos-56 
TotBili-0.3
___ 06:33AM BLOOD Calcium-9.0 Phos-2.7 Mg-2.___ yo M with PMhx of HIV (CD4 536, VL 253), asthma, bipolar 
disorder type 2, and ?hx of Addison's disease who presented with 
general malaise/cough found to be hypotensive with septic shock 
secondary to multifocal pneumonia. He was called out of MICU on 
___ and subsequently triggered for hypotension that has 
resolved with IVF and broadening of antibiotics and initiation 
of stress dose steroids. He was transitioned to po regimen, 
which he will continue going forward. 

TRANSITIONAL ISSUES:
==================
[ ] To complete Cefpodoxime through ___
[ ] Ensure patient is moving bowels as an outpatient given 
history of constipation
[ ] Recheck CD4 count following resolution of acute illness
[ ] Patient with history of pre-diabetes. Check A1c as 
outpatient. Sliding scale insulin while in house on steroids

ACUTE/ACTIVE ISSUES:
====================
# Multifocal pneumonia 
# Septic shock 
# Mild neutropenia -- resolved 
Patient with productive cough x1 week with CXR notable for 
bilateral parenchymal opacities worse on L side concerning for 
multifocal pneumonia and CT abd/pelvis with multifocal airspace 
opacities at bilateral lung bases concerning for aspiration vs. 
pneumonia vs. alveolar hemorrhage. Etiology of pneumonia is most 
likely community acquired. He was in the MICU initially and 
briefly required pressers before being transitioned to floor. Pt 
with underlying HIV but recent CD4 >500 so opportunistic 
infection for pneumonia is less likely. Decompensated on 
transfer to floor, for which antibiotics were broadened, but 
given rapid clinical response and input from ID, was able to 
transition to Cefpodoxime/Azithromycin to complete total ___efpodoxime and ___zithromycin. Legionella 
negative. Also received stress dose steroids given questionable 
history of adrenal insufficiency. Had CD4 count performed, which 
was low, but uninterpretable in setting of acute illness. 

# Constipation
# Urinary distension 
Patient reports ongoing constipation and normally has 1x BM 
weekly. He also reports baseline urinary retention. Treated with 
Senna, Miralax, Lactulose, mineral oil enema, prn Bisacodyl 
suppository

# Mild anemia 
Possibly secondary to dilution in the setting of fluid 
resuscitation vs. anemia of chronic disease. Pt denies any overt 
bleeding and does not have melena or hematochezia. CBC remained 
stable throughout discharge. 

# Hx of Addison disease/adrenal insufficiency
Patient with reported history of adrenal insufficiency. He was 
given 1x dose of stress dose steroids in ED upon arrival but was
not continued in ICU. Pt is not on chronic steroids for the 
condition but has been on steroids in the past approximately ___ 
years ago. Unclear if he ever actually carried diagnosis of 
adrenal insufficiency. In setting of decompensation as above, 
received short course stress dose steroids, tapered prior to 
discharge. 

CHRONIC/STABLE ISSUES:
======================
___, RESOLVED
Likely pre-renal in origin given decreased po. Now normalized.

#HIV (VL 253,CD4 536) 
-c/w home TAF+ Emtricibane (Descovy) and Tickivay (dolutegravir)
-c/w home acyclovir 200 mg four times daily 

# Toxic metabolic encephalopathy -- resolved
Patient presented with lethargy but neuro exam was normal 
without focal deficits. This was likely in the setting of 
overall sepsis
secondary to pulmonary source. CT Head negative

#Bipolar Disorder Type 2 
-c/w Lithium 300 mg BID
-c/w home Duloxetine 90 mg daily

#Tremor 
Held propranolol initially given soft BPs, though restarted 
prior to discharge. Continued with home Buspirone

#Chronic Thoracic Pain 
#Neuropahty 
-c/w home Pregablin 400 mg BID 
-c/w home Tizandine 
-APAP prn 

#Asthma
-c/w home Albuterol and Fluticasone

#Restless Leg Syndrome
-c/w home Ropinirole
-c/w home Methadone 20 mg nightly 

#OSA
-c/w CPAP at night
-c/w trazadone 300 mg nightly 

#Anemia of chronic disease
-c/w home Vitamin B-12, 1,000 mcg 

#OAB
-c/w home trospium 

#Psoriasis
-c/w home betamethasone, ketoconazole ,desonide, Clortimazole, 
pimecrolimus, biotin, doxycycline

#Osteoposrosis 
-c/w home vitamin d3

#Pre-diabetes
-SSI while in house

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tizanidine 4 mg PO BEDTIME 
2. DULoxetine ___ 90 mg PO DAILY 
3. Betamethasone Valerate 0.1% Ointment 1 Appl TP SCALP crusted 
papules 
4. Ketoconazole Shampoo 1 Appl TP ASDIR 
5. Desonide 0.05% Cream 1 Appl TP 2X/ WEEK 
6. Clotrimazole Cream 1 Appl TP QPM 
7. Doxycycline Hyclate 40 mg PO DAILY 
8. Acyclovir 200 mg PO 4X/D 
9. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
10. Betamethasone Dipro 0.05% Cream 1 Appl TP BID 
11. biotin 2,500 mcg oral daily 
12. Vitamin D 1000 UNIT PO BID 
13. Fluticasone Propionate 110mcg 2 PUFF IH BID 
14. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
15. Polyethylene Glycol 17 g PO DAILY 
16. Pregabalin 400 mg PO BID 
17. rOPINIRole 0.25 mg PO 4X NIGHTLY 
18. trospium 20 mg oral bid  
19. Lithium Carbonate 300 mg PO BID  
20. TraZODone 100 mg PO QHS:PRN up to three times 
21. Propranolol 20 mg PO PRN anxiety  
22. BusPIRone 22.5 mg PO BID 
23. Cyanocobalamin 1000 mcg PO DAILY 
24. Methadone 20 mg PO NIGHTLY 
25. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
26. Dolutegravir 50 mg PO BID 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID cough  
2.  Cefpodoxime Proxetil 200 mg PO BID 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp 
#*21 Tablet Refills:*0 
3.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 
4.  Acyclovir 200 mg PO 4X/D  
5.  Albuterol Inhaler ___ PUFF IH Q6H:PRN sob  
6.  Betamethasone Dipro 0.05% Cream 1 Appl TP BID  
7.  Betamethasone Valerate 0.1% Ointment 1 Appl TP SCALP crusted 
papules  
8.  biotin 2,500 mcg oral daily  
9.  BusPIRone 22.5 mg PO BID  
10.  Clotrimazole Cream 1 Appl TP QPM  
11.  Cyanocobalamin 1000 mcg PO DAILY  
12.  Desonide 0.05% Cream 1 Appl TP 2X/ WEEK  
13.  Dolutegravir 50 mg PO BID  
14.  Doxycycline Hyclate 40 mg PO DAILY  
15.  DULoxetine ___ 90 mg PO DAILY  
16.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
17.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
18.  Ketoconazole Shampoo 1 Appl TP ASDIR  
19.  Lithium Carbonate 300 mg PO BID   
20.  MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
Do Not Crush  
21.  Methadone 20 mg PO NIGHTLY 
Consider prescribing naloxone at discharge  
22.  Polyethylene Glycol 17 g PO DAILY  
23.  Pregabalin 400 mg PO BID  
24.  Propranolol 20 mg PO PRN anxiety   
25.  rOPINIRole 0.25 mg PO 4X NIGHTLY  
26.  Tizanidine 4 mg PO BEDTIME  
27.  TraZODone 100 mg PO QHS:PRN up to three times  
28.  trospium 20 mg oral bid   
29.  Vitamin D 1000 UNIT PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Septic Shock
Community Acquired Pneumonia
Acute Kidney Injury
Constipation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were in the hospital because your blood pressures were low 
and you had an infection

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received antibiotics for a a pneumonia and steroids to 
help with your blood pressure

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___